US05696273
According to a particular variant of embodiment of this synthesis process, 1-benzyl-3-pyrrolidinone is treated with an ammoniacal solution of ammonium chloride and of potassium cyanide to obtain (±)-3-amino-1-benzyl-3-cyanopyrrolidine. This compound is then converted by acid or basic hydrolysis to (±)-3-amino-1-benzyl-3-pyrrolidinecarboxylic acid, and lastly a reduction with hydrogen, preferably a catalytic hydrogenolysis, is carried out to obtain (±)-3-amino-3-pyrrolidinecarboxylic acid or (±)-cucurbitine.

reactant | 1-benzyl-3-pyrrolidinone | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | potassium cyanide | [C-]#N.[K+]
product | (±)-3-amino-1-benzyl-3-cyanopyrrolidine | NC1(CN(CC1)CC1=CC=CC=C1)C#N | C12H15N3
